US05514679
3-(4-hydroxyphenyl)-5-trifluoromethyl-1,2,4-oxadiazole 13.32 g (0.1 mol) 4-methoxybenzonitrile, 20.85 g (0.3 mol) of hydroxylamine hydrochloride and 41.40 g (0.3 mol) potassium carbonate was added to 400 mL absolute ethanol and refluxed 21 hours. The product was filtered and recrystallized from methanol to give 3.12 g (0.02 mol) of 4-methoxybenzamide oxime.

reactant | 3-(4-hydroxyphenyl)-5-trifluoromethyl-1,2,4-oxadiazole | 0.1 mol, 13.32 g | OC1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F | C9H5F3N2O2
reactant | hydroxylamine hydrochloride | 0.3 mol, 20.85 g | Cl.NO
reactant | potassium carbonate | 0.3 mol, 41.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 4-methoxybenzamide oxime | 0.02 mol, 3.12 g | COC1=CC=C(C(N)=NO)C=C1 | C8H10N2O2
